*****************************************************************
* NXP PSMN028-100YS
*
* Polarity N-Channel
* Ratings 100V/2.750000E-002OHMS/42A
*
* Date Created Fri Nov 04 02:24:41 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN028-100YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 5000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0195639530737079 TC=0.0106329910597341,-7.97687631088283E-05
RBD 9 4 0.00182031865321699 TC=0.0106329910597341,-7.97687631088283E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 1.549e-09
RG 1 2 0.476633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	1000
+ -1	899.4
+ -0.5	743.27
+ -0.2	630.27
+ -0.1	592.07
+ 0	558.12
+ 0.1	516.8
+ 0.2	477.1
+ 0.5	418.4
+ 1	354.1
+ 2	270
+ 5	191.3
+ 10	167
+ 20	127.1
+ 25	117.4
+ 50	85
+ 75	52.6
+ 100	20.2


.MODEL MINT NMOS(Vto=3.58 Kp=1.05e+002 Nfs=870000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-007 Rs=1E-6 Is=9.64262302503328e-13
+ N=1 M=0.64 VJ=0.74 Fc=0.5 Cjo=6.212e-10 Tt=4.87e-08)

.ENDS

