*****************************************************************
* NXP PSMN039-100YS
*
* Polarity N-Channel
* Ratings 100V/3.950000E-002OHMS/28.1A
*
* Date Created Mon Nov 14 05:59:24 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN039-100YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 50000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.028565163114499 TC=0.00568834120389491,3.41725357769239E-05
RBD 9 4 0.00284904006382538 TC=0.00568834120389491,3.41725357769239E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 1.12831451925145e-09
RG 1 2 0.596633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	670.0
+ -1	651.2
+ -0.5	544.6
+ -0.2	468.1
+ -0.1	446.01
+ 0	417.225
+ 0.1	380
+ 0.2	358.06
+ 0.5	309.03
+ 1	263.47
+ 2	202.58
+ 3	177.8
+ 4	166.85
+ 5	154.05
+ 10	119.13
+ 16	99.15
+ 20	90.77
+ 50	61.16
+ 100	50.102


.MODEL MINT NMOS(Vto=3.76 Kp=0.725e+002 Nfs=920000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=7.21584095393914e-13
+ N=1 M=0.6 VJ=0.6 Fc=0.5 Cjo=4.2322e-10 Tt=4.4e-08)

.ENDS

