*****************************************************************
* NXP PSMN045_80YS
*
* Polarity N-Channel
* Ratings 80V/4.50E-02OHMS/5A
*
* Date Created Sun Oct 17 00:02:09 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
* 
*****************************************************************

.SUBCKT PSMN045_80YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 4.30084418749933e-10
RLG GATE 1 1.08091912728048
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 80000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0377465813061876 TC=0.00832594621745589,7.10684617099661e-06
RBD 9 4 0.0029712689671102 TC=0.00832594621745589,7.10684617099661e-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 7.17843495934959e-10
RG 1 2 0.729302875042655

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	622
+ -10	608
+ -5	574
+ -2	384
+ -1	231
+ -0.5	151
+ -0.2	135
+ -0.1	131
+ 0	128.5
+ 0.1	122
+ 0.2	116
+ 0.5	102
+ 1	83
+ 2	65
+ 5	58
+ 10	63
+ 20	56
+ 25	54



.MODEL MINT NMOS(Vto=3.52639320225002 Kp=2.2709e+01 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=1000)

.MODEL DBD D(Bv=80.00 Ibv=2.50E-04 Rs=1E-6 Is=2.74979969384891e-13
+ N=1 M=0.67 VJ=0.79 Fc=0.5 Cjo=3.87e-10 Tt=3.092e-08)

.ENDS