*****************************************************************
* NXP PSMN013-100YSE
*
* Polarity N-Channel
* Ratings 100V/1.300000E-002OHMS/82.4060203415522A
*
* Date Created Mon Dec 10 07:33:19 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN013-100YSE DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 5.06682869201154e-10
RLG GATE 1 1.27343294366572
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 50000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.009423586419194 TC=0.00992638646653949,2.13499719154838E-05
RBD 9 4 0.00074800503340879 TC=0.00992638646653949,2.13499719154838E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 3.17567853858658e-09
RG 1 2 0.654420406758423

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ 0	3740.473
+ 0.1	1698.4972
+ 0.2	1696.5252
+ 0.5	1346.6984
+ 1	1090.8964
+ 2	812.53676
+ 3	671.03688
+ 4	589.29536
+ 5	532.0384
+ 6	489.88968
+ 8	431.01508
+ 10	390.73324
+ 12	360.5326
+ 15	326.77208
+ 16	317.14772
+ 20	287.8666
+ 25	260.86836
+ 30	240.60296
+ 50	191.99096



.MODEL MINT NMOS(Vto=4.17781152255917 Kp=0.8124433e+002 Nfs=1330000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=1.10236661123291e-12
+ N=1 M=0.66 VJ=0.5 Fc=0.5 Cjo=1.1759028e-09 Tt=6.1e-08)

.ENDS

