*****************************************************************
* NXP PSMN1R5-30BLE
*
* Polarity N-Channel
* Ratings 30V/1.350000E-003OHMS/120A
*
* Date Created Mon Jul 02 07:51:18 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R5-30BLE DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507775381211
LS SOURCE 8 5.20949892933006e-09
RLS2 SOURCE 8 13.0928988522138
RLS1 8 7 0.000424938986236545

RDS 7 4 15000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000403522834856694 TC=0.0156730488550154,-5.84812813498132E-06
RBD 9 4 0.000491084957573747 TC=0.0156730488550154,-5.84812813498132E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.14356494896451e-08
RG 1 2 1.06212058573213

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	8321
+ -16	8316
+ -10	8300
+ -5	8222
+ -4	8158
+ -3	7985
+ -2	8491
+ -1	9289
+ -0.5	7125
+ -0.2	6004
+ -0.1	5562
+ 0	5206.5
+ 0.1	4769
+ 0.2	4286
+ 0.5	3431
+ 1	2674
+ 2	2087
+ 3	1841
+ 4	1689
+ 5	1582
+ 6	1502
+ 8	1386
+ 10	1308
+ 12	1252
+ 15	1189
+ 20	1116



.MODEL MINT NMOS(Vto=2.23510004003203 Kp=5.474652e+002 Nfs=370000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=6.88792235869391e-12
+ N=1 M=0.64 VJ=0.76 Fc=0.5 Cjo=1.0586e-08 Tt=6.251212e-08)

.ENDS

