*****************************************************************
* NXP PSMN3R4-30BLE
*
* Polarity N-Channel
* Ratings 30V/3.400000E-003OHMS/120A
*
* Date Created Thu Sep 27 03:19:02 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R4-30BLE DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507775381211
LS SOURCE 8 5.32451612034096e-09
RLS2 SOURCE 8 13.3819685820669
RLS1 8 7 0.000750870986701744

RDS 7 4 1500000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00153314353251906 TC=0.00818872872281194,5.53533042480919E-06
RBD 9 4 0.00114340587497028 TC=0.00818872872281194,5.53533042480919E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 3.9637433148449e-09
RG 1 2 0.958760585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	2636
+ -16	2634
+ -10	2630
+ -5	2614
+ -4	2607
+ -3	2599
+ -2	2590
+ -1	2567
+ -0.5	2523
+ -0.2	2471
+ -0.1	2461
+ 0	2161
+ 0.1	1734
+ 0.2	1557
+ 0.5	1229
+ 1	936.7
+ 2	725.1
+ 3	640
+ 4	587.8
+ 5	551.4
+ 6	524.6
+ 8	484.6
+ 10	457.5
+ 12	437.5
+ 15	415.1
+ 20	389.1



.MODEL MINT NMOS(Vto=2.20967681208802 Kp=2.243200e+002 Nfs=510000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=1.96027069686352e-12
+ N=1 M=0.62 VJ=0.7 Fc=0.5 Cjo=3.156e-09 Tt=3.695468e-08)

.ENDS

