*****************************************************************
* NXP PSMN1R1-40BS
*
* Polarity N-Channel
* Ratings 40V/1.400000E-003OHMS/120A
*
* Date Created Tue Nov 08 00:24:48 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R1-40BS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 3.28320266346739e-09
RLS2 SOURCE 8 8.25158829423648
RLS1 8 7 0.000337481695870964

RDS 7 4 400000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000330 TC=0.00701918128845413,3.05228976458949E-05
RBD 9 4 0.000947768845937093 TC=0.00701918128845413,3.05228976458949E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 7.5728962353143e-09
RG 1 2 1.07663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -1	5554
+ -0.5	4916
+ -0.2	4485
+ -0.1	4369
+ 0	4202.5
+ 0.1	3875
+ 0.2	3513
+ 0.5	2751
+ 1	2221
+ 2	1805
+ 5	1414
+ 10	1195
+ 12	1152
+ 20	1037


.MODEL MINT NMOS(Vto=3.920 Kp=4.000e+002 Nfs=830000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=7.36924869432299e-12
+ N=1 M=0.62 VJ=0.5 Fc=0.5 Cjo=9.061e-09 Tt=6.4e-08)

.ENDS

