*****************************************************************
* NXP PSMN2R8-80BS
*
* Polarity N-Channel
* Ratings 80V/3.300000E-003OHMS/120A
*
* Date Created Mon Oct 17 07:38:58 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R8-80BS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.000001
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507775381211
LS SOURCE 8 2.04498779724731e-09
RLS2 SOURCE 8 5.13961491241034
RLS1 8 7 0.000694987797247309

RDS 7 4 80000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00145711643986617 TC=0.0151141399660752,1.3515041289143E-05
RBD 9 4 0.000125872121407692 TC=0.0151141399660752,1.3515041289143E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 8.41160361662407e-09
RG 1 2 0.897840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	5285
+ -1	4027
+ -0.5	2684
+ -0.2	2073
+ -0.1	1955
+ 0	1867.5
+ 0.1	1699
+ 0.2	1576
+ 0.5	1310
+ 1	980.8
+ 2	628.7
+ 5	555.6
+ 10	513.3
+ 12	501.6
+ 20	466.2
+ 25	449.3
+ 30	435
+ 40	413.4



.MODEL MINT NMOS(Vto=3.9150 Kp=4.2501e+002 Nfs=690000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=83 Ibv=2.500000E-004 Rs=1E-6 Is=6.55844950366236e-12
+ N=1 M=0.68 VJ=0.66 Fc=0.5 Cjo=6.263e-09 Tt=6.27e-08)

.ENDS

